datasets/10k__Tet_Int.csv
SMILES Labelled
"[O-:21][C:20]1(OCC)C([H])=C([H])C([H])C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])C([H])/C([H])=C([H])\[C:20](OCC)=[O:21] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]C)([NH]C)[O]C.[Cl-]>>[Cl-].C[NH:10][H].C[NH+:21]=[C:20]([NH]C)[O]C 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[H][NH+:21]=[C:20]([O][H])[NH]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21][H])([O][H])[NH]C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O:10]C([H])C(O)C1O>>[O-:10]C([H])C(O)C([C:20](OCC)=[O:21])O 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C(C)C([H])[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C([H])[O]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)[H])C1=CC=CC=C1>>CN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)[H])[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[S]2.C[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C([H])[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[OH:10]C(C)/C([H])=C([H])\C(C)[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(C)C([H])=C([H])C(C)[OH+:10]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[OH:21][C:20]2([H])C(C([H])C3=C([NH+:10]2(C))C=CC=C3)[H]>>[NH:10](C)C(C=CC=C1)=C1C([H])C([C:20]([H])=[OH+:21])[H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C(C)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[C:20]([O:10]C)([Br:21])C1=CC=CC=C1>>C[C:20](=[O+:10]C)C1=CC=CC=C1.[Br-:21] 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C(CC)C(C)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C(C)[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.[H][O:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[O]C([H])C([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C([H])C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"C[O+:10]([Li])[C:21]([O-:20])(OCCCCCC)OC1=CC=CC=C1>>[O:20]=[C:21](OCCCCCC)OC1=CC=CC=C1.C[O:10][Li] 20=21;21,10=10"
"C[NH+:10]([H])[C:20]([NH:21]CC)([NH]C)[O]CC.[Cl-]>>[Cl-].C[NH:10][H].CC[NH+:21]=[C:20]([NH]C)[O]CC 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(CC)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][S:10]C([H])C(CC)[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC[NH:10][H].[H][NH+:21]=[C:20]([NH][H])[O]CC.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21][H])([NH][H])[O]CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[O:10]([Na])C(CC)C([H])C(C)C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C(C)C([H])C(CC)[O+:10]1([Na]) 10=20;20,21=21"
